US05260307
A solution of 211.2 g of di-t-butyl dicarbonate in 500 ml of dioxan is added to a solution of 92.9 g of rac-3-hydroxymethyl-piperidine in 1500 ml of dioxane so that the temperature does not exceed 25° C. The reaction mixture is stirred at room temperature for 15 hours and evaporated. The residue is suspended in 800 ml of hexane and filtered. There are obtained 120.7 g of rac-N-t-butyloxycarbonyl-3-hydroxymethylpiperidine, m.p. 78° C.

reactant | di-t-butyl dicarbonate | 211.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | rac-3-hydroxymethyl-piperidine | 92.9 g | OCC1CNCCC1 | C6H13NO
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1500 ml | O1CCOCC1 | C4H8O2
product | rac-N-t-butyloxycarbonyl-3-hydroxymethylpiperidine | 120.7 g | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
